US06159995
2-(2R)-(4-Chlorobiphenylsulfonylamino)-5-(1-oxo-1,3-dihydro-isoindol-2-yl) pentanoic acid
0.32 g (0.76 mmol) of 2-(2R)-(4-chlorobiphenylsulfonylamino)-5-amino-pentanoic acid hydrochloride is dissolved in 30 ml of glacial acetic acid with 0.186 g (1.35 mmol) of phthalaldehyde and stirred at 100° C. for 3 hours. The solution is cooled to 0° C., and the precipitate which is deposited is filtered off with suction and chromatographed on a silica gel column (eluent: ethyl acetate/petroleum ether/glacial acetic acid 10/10/2).

reactant | 2-(2R)-(4-chlorobiphenylsulfonylamino)-5-amino-pentanoic acid hydrochloride | 0.76 mmol, 0.32 g | Cl.ClC=1C=C(C(=CC1)C1=CC=CC=C1)S(=O)(=O)N[C@@H](C(=O)O)CCCN
reactant | phthalaldehyde | 1.35 mmol, 0.186 g | C(C=1C(C=O)=CC=CC1)=O | C8H6O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(2R)-(4-Chlorobiphenylsulfonylamino)-5-(1-oxo-1,3-dihydro-isoindol-2-yl) pentanoic acid | ClC=1C=C(C(=CC1)C1=CC=CC=C1)S(=O)(=O)N[C@@H](C(=O)O)CCCN1C(C2=CC=CC=C2C1)=O | C25H23ClN2O5S
